US04053606
A mixture of 1.65 g. of 2-methyl-3hydroxy-4-hydroxymethyl-5vinylpyridine hydrochloride, 1 ml. of thionyl chloride and 20 ml. of tetrahydrofuran is refluxed 6 hours. After cooling, the precipitate is collected on a filter, washed with ether and dried to give 2-methyl-3-hydroxy-4-chloromethyl-5-vinylpyridine hydrochloride.

reactant | 2-methyl-3hydroxy-4-hydroxymethyl-5vinylpyridine hydrochloride | Cl.CC1=NC=C(C(=C1O)CO)C=C
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methyl-3-hydroxy-4-chloromethyl-5-vinylpyridine hydrochloride | Cl.CC1=NC=C(C(=C1O)CCl)C=C | InChI=1S/C9H10ClNO.ClH/c1-3-7-5-11-6(2)9(12)8(7)4-10;/h3,5,12H,1,4H2,2H3;1H
